US07060697B2
3-[4-(2-Trifluoromethyl-biphenyl-4-ylsulfanylmethyl)-benzylamino]-propionic acid tert-butyl ester is synthesized similarly as described above by reaction of 4-(4-bromomethyl-benzylsulfanyl)-2-trifluoromethyl-biphenyl with 3-amino-propionic acid tert-butyl ester.

reactant | 4-(4-bromomethyl-benzylsulfanyl)-2-trifluoromethyl-biphenyl | BrCC1=CC=C(CSC2=CC(=C(C=C2)C2=CC=CC=C2)C(F)(F)F)C=C1 | C21H16BrF3S
reactant | 3-amino-propionic acid tert-butyl ester | C(C)(C)(C)OC(CCN)=O | C7H15NO2
product | 3-[4-(2-Trifluoromethyl-biphenyl-4-ylsulfanylmethyl)-benzylamino]-propionic acid tert-butyl ester | C(C)(C)(C)OC(CCNCC1=CC=C(C=C1)CSC1=CC(=C(C=C1)C1=CC=CC=C1)C(F)(F)F)=O | C28H30F3NO2S
